US05891909
a) 3-(2-Chlorophenylsulfonyloxy)-5-methylphenol
Orcinol monohydrate (1.42 g, 10 mmol) and 2-chlorobenzenesulfonyl chloride (2.43 g, 11 mmol) were mixed in saturated aqueous NaHCO3 (30 mL) and diethyl ether (30 mL). The biphasic mixture was stirred vigorously at room temperature for 2 days. The reaction mixture was diluted with 50 mL of water and extracted into ethyl acetate (3×50 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (2% ethyl acetate in dichloromethane) to give the title compound as a pale yellow liquid (2.15 g, 71%). 1H-NMR (300 MHz, CDCl3) δ 2.22 (s, 3 H), 5.24 (s, 1 H), 6.43 (s, 1 H), 6.52 (s, 2H), 7.38 (m, 1 H), 7.60 (m, 2 H), and 7.96 (dd, 1 H, J =0.6, 3.9 Hz).

reactant | Orcinol monohydrate | 10 mmol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-chlorobenzenesulfonyl chloride | 11 mmol, 2.43 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 3-(2-Chlorophenylsulfonyloxy)-5-methylphenol | 2.15 g, 71% | ClC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C13H11ClO4S
